Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: abdominal pain/fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Mr. ___ is a ___ male with pmhx of ___ and ___
who presented to the ___ ED on ___ with 1 day of intermittent
right upper quadrant pain.

He reports that starting ___ morning, noticed pain that was 
in
a band from his right upper to left upper quadrants of his
abdomen. No radiation elsewhere. Associated with some nausea, 
but
not vomiting. Always has some loose stools from ___, but no 
change
in bowel habits recently. Improved during the day, then happened
again overnight ___ night. Also noted a fever to 100.2
Called and spoke to office of Dr. ___, referred in to ED for
concern for obstruction.

ED course: Initial VS T 97.7 (Tmax 99.5 at 12:22pm on ___ HR 86
BP 121/74 RR 20 sat 98% on room air. ERCP team consulted,
recommended MRCP which did show intra- and extra-hepatic biliary
dilatation without stones/obstruction. Also had RUQUs.
Recommending admission to medicine for IV antibiotics and
hydration, and they will follow. No plan for ERCP procedure at
this time. Received IV Zosyn and IV fluids. Also received home
mesalamine and ursodiol.

Patient is very active, currently feeling quite well and is
itching to get up and move (bike or run). Denying any pain at 
the
time of our interview. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Ulcerative colitis
PSC
 
Social History:
___
Family History:
Patient denies any family
history of liver problems, UC, PSC, Crohn's. Several 
grandparents
died of "heart attacks" but were elderly at the time.
 
Physical Exam:
VITALS: T 97.9 BP 124/79 HR 99 RR 8 Sat 95% on room air
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Exam on discharge
BP: 120 / 81 HR:68 R:18O2:96ra
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 11:30AM BLOOD WBC-11.2* RBC-4.63 Hgb-13.8 Hct-42.3 
MCV-91 MCH-29.8 MCHC-32.6 RDW-14.2 RDWSD-47.4* Plt ___

___ 11:30AM BLOOD ALT-218* AST-141* AlkPhos-794* 
TotBili-4.6* DirBili-3.8* IndBili-0.8
___ 11:30AM BLOOD Albumin-4.2 Calcium-10.0 Phos-3.6 Mg-1.8

Labs on discharge:

___ 05:45AM BLOOD ALT-274* AST-167* AlkPhos-798* 
TotBili-3.1*
___ 05:45AM BLOOD WBC-6.2 RBC-4.24* Hgb-12.8* Hct-39.4* 
MCV-93 MCH-30.2 MCHC-32.5 RDW-14.5 RDWSD-49.3* Plt ___

___ RUQUS:
1. No evidence of acute cholecystitis or significant biliary
ductal dilatation.  Apparent intraluminal echogenicity within 
the
non-dilated common bile duct may be due to sludge which is
otherwise not seen within the gallbladder. 
2. Coarsened hepatic echotexture, similar to prior, without 
focal
liver lesion. No ascites. 

___ MRCP
Worsening extrahepatic biliary stricturing, otherwise unchanged
findings including extensive severe central strictures involving
essentially all of the sectoral and proximal segmental
intrahepatic biliary ducts.  No definite specific evidence for
active infection although some of the sequences are 
limited. No evidence of abscess. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of UC and PSC 
who presents for abdominal pain and
elevated temperature, with imaging findings of worsening biliary 
dilatation and labs consistent with increased cholestasis. 
Concerning for possible infection (cholangitis) but no 
obstruction seen, also overall concerning for progression of PSC 
or new intra-hepatic process.

#Borderline fever:
#Abdominal pain:
#Cholestasis:
#History of PSC/UC:
Patient has known history of UC with PSC, treated with 
mesalamine. Now has abdominal pain, subjective fever (w/ 
objective temporal temperature of 100.2 at home). MRCP with 
increased biliary dilation, and labs w/ increased bilirubin 
concerning for cholestasis. Referred in for possible ERCP given 
concern for obstruction, however no stones/obstruction seen on 
MRCP.  It is also possible that this presentation represents 
progression of disease. The patient was initially on Zosyn which 
was transitioned to IV Ceftraixone/PO Flagyl. He was seen by 
hepatology and the advanced endoscopy team and LFTs were trended 
and remained stable. The patient was discharged home on oral 
antibiotics (Cipro/Flagyl) to complete a 10 day course. He will 
have labs next week and follow up with his hepatologist Dr. 
___ 2 weeks of discharge. The patient was counseled on 
warning signs  such has fever, abdominal pain and jaundice that 
would prompt him to call hepatology or return to the hospital. 

#Vitamin D deficiency:
-continued home supplementation

Transitional issues:
- Patient discharged on Cipro/Flagyl for a 10 day course
- He will follow with hepatology and have repeat labs as an 
outpatient

Patient seen and examined on day of discharge. >30 minutes on 
discharge activities. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Asacol HD (mesalamine) 2.4 gram oral DAILY 
2. Ursodiol 500 mg PO BID 
3. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Q12hours Disp 
#*16 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth Q8hours Disp #*24 
Tablet Refills:*0 
3.  Asacol HD (mesalamine) 2.4 gram oral DAILY  
4.  Ursodiol 500 mg PO BID  
5.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with abdominal pain and found to have 
elevated liver function tests. You had an MRCP which showed 
dilation of your bile ducts but no clear area that could be 
stented. You were seen by the advanced endoscopy team and by the 
hepatology team who recommended treatment with antibiotics and 
outpatient follow up. 

Please call ___ in Dr. ___ and schedule an 
appointment to be seen in the next 2 weeks.  Please have lab 
testing next week with results sent to Dr. ___.

If you develop fever, increased abdominal pain, yellowing of 
your eyes or dark urine, please call your liver doctor.

We wish you the best,
Your ___ Care Team 
 
Followup Instructions:
___